US08541598B2
Preparation of 3-Methyl-1-(propoxyethoxycarbonylmethyl)imidazolium octyl sulfate
To a solution of 3-Methyl-1-(propoxyethoxycarbonylmethyl)imidazolium bromide (3.32 g, 12.0 mmol) in distilled water (20 mL) was added in one portion sodium octyl sulfate (2.09 g, 9.00 mmol) and stirred at 60° C. for 2 h. The water was then slowly removed under vacuum. The precipitate was dissolved in DCM (10 mL) and washed with distilled water (2×5 mL). The product remaining was dried on the rotary evaporator and then under high vacuum for 8 h to yield a dark yellow grease at RT in 85% yield (3.33 g, 7.64 mmol). 1H δ ppm 9.45 (s, 1H), 7.48 (t, J=1.6 Hz, 1H), 7.41 (t, J=1.6 Hz, 1H), 5.25 (5, 2H), 4.36 (t, J=4.8 Hz, 2H), 4.01 (s, 3H), 3.67 (t, J=4.6 Hz, 2H), 3.43 (t, J=6.8 Hz, 2H), 1.63-1.58 (m, 2H), 0.92-0.86 (m, 3H) 13C δ ppm 166.45, 138.89, 123.71, 123.06, 73.04, 67, 92, 67.89, 65.67, 49.91, 36.58, 31.83, 29.50, 29.36, 29.26, 25.87, 22.73, 22.66, 14.13, 10.47

reactant | 3-Methyl-1-(propoxyethoxycarbonylmethyl)imidazolium bromide | 12.0 mmol, 3.32 g | [Br-].CN1C=[N+](C=C1)CC(=O)OCCOCCC
reactant | sodium octyl sulfate | 9.00 mmol, 2.09 g | S(=O)(=O)(OCCCCCCCC)[O-].[Na+]
solvent | water | 20 mL | O | H2O
product | 3-Methyl-1-(propoxyethoxycarbonylmethyl)imidazolium octyl sulfate | 85% yield | C(CCCCCCC)OS(=O)(=O)[O-].CN1C=[N+](C=C1)CC(=O)OCCOCCC | InChI=1S/C11H19N2O3.C8H18O4S/c1-3-6-15-7-8-16-11(14)9-13-5-4-12(2)10-13;1-2-3-4-5-6-7-8-12-13(9,10)11/h4-5,10H,3,6-9H2,1-2H3;2-8H2,1H3,(H,9,10,11)/q+1;/p-1
